US08486967B2
8-(2-Chloro-4-fluorophenyl)-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine
1-(6-Methylpyrimidin-4-yl)piperidin-4-amine dihydrochloride (133 mg, 0.5 mmol) was suspended in dichloromethane (15 mL) and then extracted with aqueous sodium hydroxide (2 M, 10 mL). The aqueous layer was extracted with dichloromethane (15 mL) and the organic layers were combined, dried over sodium sulfate and evaporated carefully. After addition of 2-bromo-8-(2-chloro-4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyridine (180 mg, 0.55 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (23.1 mg, 0.04 mmol), tris(dibenzylideneacetone)dipalladium(o) chloroform adduct (21 mg, 0.02 mmol) and sodium phenoxide (87 mg, 0.75 mmol) in dry 1,4-dioxane (4 mL) the reaction mixture was stirred under an argon atmosphere for 60 minutes at 130° C. in the microwave. Concentration and purification of the residue by chromatography (SiO2, heptane:ethyl acetate 3:1 to 0:1) afforded the title compound as yellow foam (97 mg, 44%).

reactant | 1-(6-Methylpyrimidin-4-yl)piperidin-4-amine dihydrochloride | 0.5 mmol, 133 mg | Cl.Cl.CC1=CC(=NC=N1)N1CCC(CC1)N
reactant | 2-bromo-8-(2-chloro-4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.55 mmol, 180 mg | BrC1=NN2C(C(=CC=C2)C2=C(C=C(C=C2)F)Cl)=N1 | C12H6BrClFN3
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.04 mmol, 23.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium phenoxide | 0.75 mmol, 87 mg | [O-]C1=CC=CC=C1.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 8-(2-Chloro-4-fluorophenyl)-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 97 mg, 44% | ClC1=C(C=CC(=C1)F)C=1C=2N(C=CC1)N=C(N2)NC2CCN(CC2)C2=NC=NC(=C2)C | C22H21ClFN7
